US04112237
A 47.5 g (0.6 mol) sample of pyridine was added dropwise to a stirred and cooled (ice bath) slurry of 53.0 g (0.3 mol) benzenesulfonyl chloride and 37.7 g (0.3 mol) glycine methyl ester hydrochloride in 500 ml dichloromethane. The reaction mixture was then allowed to warm to 25° C. and was stirred for about 16 hours. The reaction mixture was diluted with 250 ml water, the organic layer was separated, washed with water, washed with 10% aqueous hydrochloric acid solution, washed with water, dried over magnesium sulfate and evaporated to give 36.5 g N-(methoxycarbonylmethyl)benzenesulfonamide, which crystallized as a colorless solid melting at 62°-63° C.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 0.3 mol, 53.0 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | glycine methyl ester hydrochloride | 0.3 mol, 37.7 g | Cl.COC(CN)=O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | water | 250 ml | O | H2O
product | N-(methoxycarbonylmethyl)benzenesulfonamide | 36.5 g | COC(=O)CNS(=O)(=O)C1=CC=CC=C1 | C9H11NO4S
